US06716843B2
(S)-N-[3Amino-4-oxo-4-(1-pyrrolidinyl)-butyl]-methanesulphonamide Hydrochloride
Starting from (S)-4-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-butanoic acid, methanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-4-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-butanoic acid | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H24N2O6
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[3Amino-4-oxo-4-(1-pyrrolidinyl)-butyl]-methanesulphonamide Hydrochloride | Cl.N[C@@H](CCNS(=O)(=O)C)C(N1CCCC1)=O | InChI=1S/C9H19N3O3S.ClH/c1-16(14,15)11-5-4-8(10)9(13)12-6-2-3-7-12;/h8,11H,2-7,10H2,1H3;1H/t8-;/m0./s1
